US07109186B2
Compound 37: 3-(3-{4-[(3,4-Dichloro-benzyl)-methyl-carbamoyl]-3-hydroxy-2oxo-2,5-dihydro-pyrrol-1-yl}-propionylamino)-propionic acid
A mixture of paraformaldehyde (0.015 g, 0.5 mmol) and methanol (1.5 mL) was warmed to 55° C. Added to this mixture was H-β-Ala-β-ala-OH (0.08 g, 0.5 mmol) and the solution was stirred 5 min. N-(3,4-Dichloro-benzyl)-2-(2,2-dimethyl-5-oxo[1,3]dioxolane-4-ylidene)-N-methyl-acetamide (0.1715 g, 0.5 mmol) was added and the mixture was stirred at 55° C. for 45 min. The mixture was concentrated and the resulting residue was triturated with ethylacetate and filtered to give the desired product as a white solid (0.0358 g, 16% yield). 1H NMR (300 MHz, DMSO) δ: 2.35 (t, J=6.7 Hz, 4H), 2.96 (s, 3H), 3.32 (m, 2H), 3.57 (m, 2H), 4.02 (s, 2H), 4.57 (s, 2H), 7.23 (d, J=6.6 Hz, 1H), 7.51 (s, 1H), 7.61 (d, J=8.4 Hz, 1H), 8.05 (t, J=10.3 Hz, 1H), 10.97 (s, 1H), 12.19 (s, 1H). HRMS (M+H) calcd for C19H21N3Cl2O6: 456.07292. found: 456.0738.

reactant | paraformaldehyde | 0.5 mmol, 0.015 g | C=O | CH2O
reactant | H-β-Ala-β-ala-OH | 0.5 mmol, 0.08 g | C(CN)C(=O)NCCC(=O)O | C6H12N2O3
reactant | N-(3,4-Dichloro-benzyl)-2-(2,2-dimethyl-5-oxo[1,3]dioxolane-4-ylidene)-N-methyl-acetamide | 0.5 mmol, 0.1715 g | ClC=1C=C(CN(C(C=C2OC(OC2=O)(C)C)=O)C)C=CC1Cl | C15H15Cl2NO4
solvent | methanol | 1.5 mL | CO | CH4O
product | 3-(3-{4-[(3,4-Dichloro-benzyl)-methyl-carbamoyl]-3-hydroxy-2oxo-2,5-dihydro-pyrrol-1-yl}-propionylamino)-propionic acid | 0.0358 g, 16% yield | ClC=1C=C(CN(C(=O)C2=C(C(N(C2)CCC(=O)NCCC(=O)O)=O)O)C)C=CC1Cl | C19H21Cl2N3O6
